US05280032
8.3 g of 2-(2-hydroxyethoxy)-1-(1-naphthyl)ethanol was dissolved in 50 ml of pyridine. The solution was cooled to -25° C. Thereto was added 6.8 g of p-toluenesulfonyl chloride. The resulting mixture was allowed to stand at 0°-5° C. for 24 hours and further at room temperature for 4 hours. The reaction mixture was added to a mixture of 103 ml of 6N hydrochloric acid, 50 ml of ice water and 100 ml of diethyl ether. The resulting mixture was adjusted to pH 2.0 with 6N hydrochloric acid. The organic layer was separated. The aqueous layer was extracted with 20 ml of diethyl ether. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: toluene/ethyl acetate=10/1) to obtain 6.3 g of colorless, oily 1-(1-naphthyl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol.

reactant | 2-(2-hydroxyethoxy)-1-(1-naphthyl)ethanol | 8.3 g | OCCOCC(O)C1=CC=CC2=CC=CC=C12 | C14H16O3
reactant | p-toluenesulfonyl chloride | 6.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 6N, 103 ml | Cl | ClH
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(1-naphthyl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol | C1(=CC=CC2=CC=CC=C12)C(COCCOS(=O)(=O)C1=CC=C(C=C1)C)O | C21H22O5S
